US08710065B2
(2-(4-methyl-1,4-diazepan-1-yl)-5-nitrophenyl)methanol
A mixture of (2-fluoro-5-nitrophenyl)methanol (4.500 g, 26.3 mmol), diisopropylethylamine (6.89 mL, 39.4 mmol), and 1-methyl-1,4-diazepane (4.25 mL, 34.2 mmol) in acetonitrile (150 mL) was refluxed for 24 hours. The solvent was evaporated. The residue was treated with saturated aqueous NaHCO3 and extracted with ethyl acetate (twice). The combined organic layers were dried over MgSO4 and filtered. The title compound was crystallized from the organic layers.

reactant | (2-fluoro-5-nitrophenyl)methanol | 26.3 mmol, 4.500 g | FC1=C(C=C(C=C1)[N+](=O)[O-])CO | C7H6FNO3
reactant | diisopropylethylamine | 39.4 mmol, 6.89 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-1,4-diazepane | 34.2 mmol, 4.25 mL | CN1CCNCCC1 | C6H14N2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | (2-(4-methyl-1,4-diazepan-1-yl)-5-nitrophenyl)methanol | CN1CCN(CCC1)C1=C(C=C(C=C1)[N+](=O)[O-])CO | C13H19N3O3
